US04808621
The crude β,δ-dihydroxy-6-heptenoic acid, ethyl ester from the previous step was dissolved in a mixture of 30 ml of dichloromethane and 10 ml of 2,2-dimethoxypropane. Camphorsulfonic acid (0.05 g) was added, and the mixture was stirred overnight. Concentration of the reaction mixture and flash-chromatography of the residue yielded 1.1 g of 6-ethenyl-2,2-dimethyl-1,3-dioxane-4-acetic acid, ethyl ester.

reactant | β,δ-dihydroxy-6-heptenoic acid, ethyl ester | OC(CC(=O)OCC)CC(C=C)O | C9H16O4
reactant | Camphorsulfonic acid | 0.05 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | 2,2-dimethoxypropane | 10 ml | COC(C)(C)OC | C5H12O2
product | 6-ethenyl-2,2-dimethyl-1,3-dioxane-4-acetic acid, ethyl ester | 1.1 g | C(=C)C1CC(OC(O1)(C)C)CC(=O)OCC | C12H20O4
